### PR TITLE
[Merged by Bors] - feat: add gronwallBound_mono

### PR DESCRIPTION
**Pull request by saodimao20**
This PR adds `gronwallBound_mono`, which proves that the `gronwallBound` function is monotone non-decreasing with respect to the time variable `x` (given non-negative parameters `δ`, `ε`, and `K`).

This lemma is useful for comparing Gronwall bounds over different time intervals or establishing upper bounds in ODE analysis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/ODE/Gronwall.lean [hunk 1]
```diff
@@ -89,6 +89,19 @@ theorem gronwallBound_continuous_ε (δ K x : ℝ) : Continuous fun ε => gronwa
   · simp only [gronwallBound_of_K_ne_0 hK]
     exact continuous_const.add ((continuous_id.mul continuous_const).mul continuous_const)
 
+/-- The Gronwall bound is monotone with respect to the time variable `x`.
+
+Given `0 ≤ δ`, `0 ≤ ε`, and `0 ≤ K`, if `x₁ ≤ x₂`,
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/Gronwall.lean]: I would just omit this last sentence.

File: Mathlib/Analysis/ODE/Gronwall.lean [hunk 2]
```diff
@@ -89,6 +89,19 @@ theorem gronwallBound_continuous_ε (δ K x : ℝ) : Continuous fun ε => gronwa
...
+then `gronwallBound δ K ε x₁ ≤ gronwallBound δ K ε x₂`. -/
+lemma gronwallBound_mono (δ K ε : ℝ) (hδ : 0 ≤ δ) (hε : 0 ≤ ε) (hK : 0 ≤ K) :
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/Gronwall.lean]: Since delta, K and epsilon are mentioned in hypotheses next, I would make them implicit.

File: Mathlib/Analysis/ODE/Gronwall.lean [hunk 3]
```diff
@@ -89,6 +89,19 @@ theorem gronwallBound_continuous_ε (δ K x : ℝ) : Continuous fun ε => gronwa
...
+    Monotone (gronwallBound δ K ε) := by
+  intro x₁ x₂ hx
+  unfold gronwallBound
+  split_ifs with hK₀
+  · gcongr
+  · have hK_pos : 0 < K := hK.lt_of_ne (Ne.symm hK₀)
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/Gronwall.lean]: Can you write (untested)?
```suggestion
  · have hK_pos : 0 < K := hK.lt_of_ne hK₀.symm
```

**Review by grunweg — COMMENTED** [review]
Thanks for your PR and welcome to mathlib! I have a few minor comments on coding style. I can take a closer look at the proof later, but don't anticipate major changes.

File: Mathlib/Analysis/ODE/Gronwall.lean (hunk 3 above)
Comment (saodimao20) [reply Mathlib/Analysis/ODE/Gronwall.lean]: Thanks for the suggestion! I tested it, but hK₀.symm doesn't work because hK₀ has type K = 0 → False rather than K ≠ 0.

Here are some alternatives if you prefer: 
fun h => hK₀ h.symm
by positivity

Comment (saodimao20) [reply Mathlib/Analysis/ODE/Gronwall.lean]: -awaiting-author

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
